Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transfer for concern for aortitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female w/ h/o alzheimers dementia, HTN, HLD who 
presents from OSH d/t concern for aortitis. Pt has had ongoing 
productive cough x3 weeks. She also developed back pain since 
___ which worsened over the past few days. Due to worsening 
back pain and cough the patient went to outside hospital. A CTA 
of the chest was performed due to pleuretic chest pain, which 
showed:

likely chronic SVC clot (given extensive collaterals)
circumferential thickening of part of Ao, ? aortitis

She was transferred here for further management given these 
findings for vascular surgery evaluation. She denies dyspnea, 
abdominal pain, additional complaints at this time. Of note she 
has had a weight loss over the course of months but denies night 
sweats or fevers.

exam: reproducible pain in L upper back medial to scapula, could 
be MSK

not on heparin since SVC clot likely chronic given extensive 
collaterals

In the ED, initial vitals were:
97.6 72 188/80 16 96% RA   

Exam notable for
reproducible pain in L upper back medial to scapula, could be 
___
 
Labs showed  
CRP 4.3, CBC wnl

Received metoprolol tartrate 25 mg 
 
Vascular surgery was c/s and recommended cardiac surgery 
consultation with deferral of anticoagulation plan to cardiac 
surgery service.

Cardiac surgery was consulted and recommended SBP goal of <120 
and ID and rheum consults given aortitis. States that from a 
___ perspective no issue with anticoagulation.

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports productive cough x 3 
weeks and lower back pain but no other symptoms. She denies any 
f/c, headache, changes in vision, pain or jaw fatigue with 
chewing, chest pain, SOB, abdominal pain, N/V, constipation or 
diarrhea, blood in stool, swollen joints or rashes. 25 lb weight 
loss over last year but says her appetite has been less than her 
usual.

Her daughter, who is in the room during admission says that over 
the past few days her face has become puffy.

Review of systems:  
(+) Per HPI  
(-) 10-point ROS negative except as per HPI
 
Past Medical History:
HTN
Alzheimers Dementia
HLD
Open cholecystectomy
Open appendectomy
TAH, open
Right ankle ORIF, metal plate placement?
 
Social History:
___
Family History:
No family history of rheumatologic diseases or aortitis.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
Vital Signs: 97.9 158/95 64 18 99% RA  
General: Alert, oriented, no acute distress  
HEENT: Puffy face with JVD and distended veins with spider 
angiomas in the neck and upper chest. Sclerae anicteric, MMM, 
oropharynx clear, EOMI, PERRL, neck supple
CV: Regular rate and rhythm, normal S1 + S2, II/VI systolic 
murmur at left sternal border
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, mild RUQ tenderness, otherwise non tender +BS
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper and lower 
extremities. 

DISCHARGE PHYSICAL EXAM
=========================
Vital Signs: 98.2 115/71 66 18 99% RA
General: Extremely well-appearing woman, well-groomed, alert, 
oriented, no acute distress  
HEENT: JVD distended, spider angiomata in the neck and upper 
chest. Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple
CV: Regular rate and rhythm, normal S1 + S2, II/VI systolic 
murmur at left sternal border
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, mild RUQ tenderness, otherwise non tender +BS
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper and lower 
extremities. 

 
Pertinent Results:
PERTINENT LABS
=================
___ 09:20AM BLOOD WBC-8.8 RBC-3.89* Hgb-12.1 Hct-37.7 
MCV-97 MCH-31.1 MCHC-32.1 RDW-14.2 RDWSD-50.0* Plt ___
___ 09:20AM BLOOD ___ PTT-28.3 ___
___ 09:20AM BLOOD Glucose-90 UreaN-15 Creat-0.5 Na-138 
K-4.1 Cl-99 HCO3-23 AnGap-20
___ 09:20AM BLOOD ALT-6 AST-12 LD(LDH)-170 AlkPhos-86 
TotBili-0.5
___ 09:20AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.0
___ 09:20AM BLOOD RheuFac-<10
___ 12:30AM BLOOD CRP-4.3

IMAGING
========
CTA CHEST ___ at ___:
     Both adrenal glands are normal.  There is a hiatal hernia.
      
     No lytic or blastic osseous lesion suspicious for 
malignancy is
     identified.
      
      
     IMPRESSION:  1.  No evidence of pulmonary embolism.
      
     2.  Occlusive thrombus in the SVC and right brachiocephalic 
trunk.
     There are extensive collaterals, as detailed above, which 
suggest
     that the SVC occlusion is likely chronic.
      
     3.  Circumferential wall thickening of the thoracic 
ascending aorta,
     proximal aortic arch, and the proximal great vessels in 
keeping with
     aortitis.  No associated aneurysms or ulcerations.

MICRO
======
___ 9:20 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with a history of 
Alzheimer's dementia who initially presented to ___ with 
productive cough for 3 weeks and worsening back pain as well as 
pleuritic chest pain. She received a CTA at ___ given 
concern for pulmonary embolism which revealed imaging findings 
consistent with aortitis, a chronic superior vena cava 
thrombosis, but no pulmonary embolism. She was transferred from 
___ due to concern for further management of aortitis. 
She was extremely well-appearing on arrival and felt quite well. 
She was started on Coumadin to treat her chronic superior vena 
cava thrombosis. She was evaluated by vascular surgery and 
cardiac surgery who felt that there was no indication for 
surgical management and recommended more aggressive blood 
pressure control with a goal of SBP < 120, as well as workup for 
rheumatologic or infectious etiologies. A battery of 
rheumatologic and infectious tests were sent and pending at the 
time of discharge. As the patient was hemodynamically normal, 
with blood pressures well controlled, extremely well appearing 
and without further pain, she was discharged and instructed to 
arrange close PCP follow up and to follow up with rheumatology 
as an outpatient to continue her work up.

# Aortitis: Imaging findings consistent with aortitis on CTA 
from ___. Patient was hemodynamically stable with blood 
pressures well controlled on metoprolol and was asymptomatic. As 
she was extremely well-appearing, workup for etiology was 
initiated while inpatient and she was discharged to continue her 
workup as an outpatient. Rheumatologic testing including ___, 
CCP, ANCA, RF, ESR, CRP were sent. CRP and RF came back normal 
prior to discharge, while the rest of the studies were pending. 
RPR and blood cultures were sent to work up for infectious 
etiology, although there were no signs or symptoms of acute 
active infection. She had no other findings concerning for giant 
cell arteritis. Cardiac surgery and vascular surgery did not 
feel that any surgical intervention was indicated and 
recommended blood pressure management so she was discharged on 
an increased dose of long-acting metoprolol.

# Superior vena cava thrombosis: SVC thrombosis noted on CTA at 
___. Appeared to be chronic given significant 
collateralization. Daughter reported her face has become puffy 
over the past several days but was unremarkable exam here. No 
pulmonary embolism on CTA. Started patient on Coumadin 2.5mg PO 
QD on discharge with plan for INR monitoring with primary care 
doctor. ___ also consider workup for underlying malignancy.

#Back pain: was worse than usual prior to transfer, due to 
musculoskeletal strain from coughing. responded well to Tylenol 
and was improved prior to discharge.

# Dementia: held rivastigmine and gave Namenda 10 mg BID while 
in-house for formulary reasons. restarted rivastigmine on 
discharge.

# Hyperlipidemia: continued rosuvastatin

# Hypertension: metoprolol tartrate 25 q6h as above
 
TRANSITIONAL ISSUES
===================
[ ] Started Coumadin 2.5mg PO qdaily indefinitely to treat SVC 
thrombosis, next INR to be drawn ___
[ ] Consider work up for underlying malignancy given SVC 
thrombosis
[ ] Metoprolol tartrate 25mg qdaily changed to metoprolol 
succinate 50mg qdaily to help better control blood pressure
[ ] Continue to monitor blood pressure as an outpatient, goal 
SBP <=120 given aortitis per surgery recommendations
[ ] Blood cultures pending at time of discharge
[ ] RPR pending at time of discharge
[ ] ESR, ___, CCP, ANCA, RF pending at time of discharge
[ ] Patient needs rheumatology appointment for further workup of 
aortitis
[ ] Consider MR-angiogram as outpatient for aortitis workup
# CODE: presumed full
# CONTACT: daughter ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Namenda XR (MEMAntine) 28 mg oral DAILY 
2. Metoprolol Tartrate 25 mg PO DAILY 
3. raloxifene 60 mg oral DAILY 
4. rivastigmine 9.5 mg/24 hr transdermal DAILY 
5. Rosuvastatin Calcium 10 mg PO QPM 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*90 Tablet Refills:*0 
2.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*0 
4.  Warfarin 2.5 mg PO DAILY16 
RX *warfarin 2.5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Namenda XR (MEMAntine) 28 mg oral DAILY  
7.  raloxifene 60 mg oral DAILY  
8.  rivastigmine 9.5 mg/24 hr transdermal DAILY  
9.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
================== 
Aortitis 
Superior vena cava thrombosis 
 
SECONDARY DIAGNOSIS 
=================== 
Alzheimer's dementia 
Hypertension 
Chronic back pain 
Hyperlipidemia 
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

     You came to the hospital because you were experiencing a 
cough and pain. A scan of your chest showed that your aorta (a 
large blood vessel coming for your heart) had signs of 
inflammation. You were seen by the vascular and cardiac surgeons 
who thought that there was no need for surgical intervention. 
Several blood tests were sent to help determine the cause of 
this inflammation and you will need to follow up with a 
rheumatologist to discuss the results when they come back.
    The surgeons also recommended trying to control your blood 
pressure more aggressively, so we prescribed you a long-acting 
version of your metoprolol at a slightly higher dose. You should 
continue taking this medication until discussing with your 
doctor.
     You were also found to have a clot in your superior vena 
cava (a big vein that goes to your heart), which has likely been 
there for a long time. You were started on a blood thinning 
medication called Coumadin to treat this clot. You will need to 
follow up with your doctor to check your blood to see how well 
this medication is working.

It was a pleasure taking care of you, we wish you the best,
Your ___ Care Team
 
Followup Instructions:
___